US09193721B2
1-[4-Chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridin-6-yl]ethanamine (12 mg, 0.043 mmol) and 6-bromo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (0.018 g, 0.064 mmol) were stirred in ethanol (0.5 mL, 9 mmol) with N,N-diisopropylethylamine (37 μL, 0.21 mmol). The mixture was heated to 100° C. for 20 hours, the reaction was mostly complete. This was allowed to cool to room temperature and concentrated in vacuo to give a semi-solid residue. The residue was taken up in 4 M HCl in dioxane and stirred at room temperature for 1 hour. This was complete by LCMS and was concentrated to give a semi-solid residue. The product was purified by preparative HPLC on a C-18 column eluting acetonitrile: water gradient buffered with ammonia to pH 10 to give N-{1-[4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridin-6-yl]ethyl}-9H-purin-6-amine (8 mg, 47%) as a white amorphous solid. LCMS calculated for C20H16ClFN7 (M+H)+: m/z=408.1. found: 408.0. 1H NMR (400 MHz, DMSO-d6/TFA): δ 8.52 (m, 1H), 8.42 (m, 1H), 7.98 (m, 1H), 7.69 (m, 1H), 7.63-7.51 (m, 2H), 7.45-7.31 (m, 2H), 6.77 (m, 1H), 5.1 (m, 1H), 1.55 (d, 3H).

reactant | 1-[4-Chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridin-6-yl]ethanamine | 0.043 mmol, 12 mg | ClC=1C=2N(C(=C(C1)C(C)N)C1=CC(=CC=C1)F)N=CC2 | C15H13ClFN3
reactant | 6-bromo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 0.064 mmol, 0.018 g | BrC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11BrN4O
reactant | ethanol | 9 mmol, 0.5 mL | C(C)O | C2H6O
reactant | N,N-diisopropylethylamine | 0.21 mmol, 37 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-{1-[4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridin-6-yl]ethyl}-9H-purin-6-amine | 8 mg, 47% | ClC=1C=2N(C(=C(C1)C(C)NC1=C3N=CNC3=NC=N1)C1=CC(=CC=C1)F)N=CC2 | C20H15ClFN7
